US06693095B2
d) 1-[(1-Ethylhydrazino)iminomethyl]piperazine
2.7 g of the benzylidene derivative of 1-[(1-ethylhydrazino)iminomethyl]4-formylpiperazine dissolved in 11.6 ml of 2N HCl are treated by steam distillation. After evaporation of the water from the mixture obtained and drying of the residue 1-[(1-ethylhydrazino)iminomethyl]piperazine in the form of a dihydrochloride is obtained in the form of a white solid.

reactant | 1-[(1-ethylhydrazino)iminomethyl]4-formylpiperazine | C(C)N(N)N=CN1CCN(CC1)C=O | C8H17N5O
solvent | HCl | 2N, 11.6 ml | Cl | ClH
product | 1-[(1-Ethylhydrazino)iminomethyl]piperazine | C(C)N(N)N=CN1CCNCC1 | C7H17N5
